US04985432
Four (4) grams of the thus obtained 2-amino-5-benzylthio-1,3,4-thiadiazole, 3.2 g of propyl 3-hydroxy-2-methoxy-propenoate and 11 g of polyphosphoric acid were heated to 135° C. and stirred for 20 minutes. After cooling, chloroform and water were added thereto, extraction was carried out. The organic layer was washed with an aqueous sodium hydrogen carbonate solution and water, and dried over anhydrous sodium sulfate. The solvent was distilled off and the residue was washed with an ethanol/hexane mixture and 5.1 g of 2-benzylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Yield 93%. The compound was recrystallized from ethanol. m.p. 145°-147° C.

reactant | 2-amino-5-benzylthio-1,3,4-thiadiazole | NC=1SC(=NN1)SCC1=CC=CC=C1 | C9H9N3S2
reactant | propyl 3-hydroxy-2-methoxy-propenoate | 3.2 g | OC=C(C(=O)OCCC)OC | C7H12O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-benzylthio-6-methoxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 5.1 g, Yield 93% | C(C1=CC=CC=C1)SC1=NN2C(=NC=C(C2=O)OC)S1 | C13H11N3O2S2
